US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(2-methoxyphenyl)-2-propen-1-one
The title compound was prepared by heating a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and o-anisaldehyde (77 ul, 0.633 mmol) similar to Example 1 and isolated as a yellow solid (107 mg, 39%). 1H NMR (CDCl3): 8.03 (d, J=15.9 Hz, 1H), 7.61 (dd, J=1.4, 7.7 Hz, 1H), 7.44 (d, J=16.2 Hz, 1H), 7.40-7.34 (m, 1H), 7.25 (d, J=3.3 Hz, 1H), 7.09 (dd, J=3.0, 8.7 Hz, 1H), 7.00-6.94 (m, 2H), 6.92 (d, J=9.3 Hz, 1H), 4.42-4.32 (m, 4H), 3.86 (s, 3H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | o-anisaldehyde | 0.633 mmol, 77 ul | C(C=1C(=CC=CC1)OC)=O | C8H8O2
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(2-methoxyphenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=C(C=CC=C1)OC)=O)(F)F | C20H16F6O4
